US08580821B2
a) 4-o-Tolyl-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester
To a 1 M solution of o-tolylmagnesium chloride in THF (6.26 ml, 41.5 mmol) was added dropwise a freshly prepared solution of dried zinc chloride (8.48 g, 62.2 mmol) in dry THF (200 ml) at 0° C. After completed addition the reaction mixture was allowed to slowly warm to room temperature over a period of 1 h. To this mixture were added a solution of 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (10.7 g, 27.5 mmol) in THF (270 ml) and tetrakis(triphenylphosphine)palladium(0) (0.96 g, 0.83 mmol). After stirring for 6 h at room temperature the reaction was quenched with ice. The mixture was diluted with tert-butyl methyl ether and washed with 2 M aqueous sodium carbonate solution. The aqueous layer was extracted with two portions of tert-butyl methyl ether.

reactant | o-tolylmagnesium chloride | C1(=C(C=CC=C1)[Mg]Cl)C
reactant | 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 27.5 mmol, 10.7 g | COC(=O)C=1CN(CCC1OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C13H18F3NO7S
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 270 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 62.2 mmol, 8.48 g | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.83 mmol, 0.96 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 41.5 mmol, 6.26 ml | C1CCOC1 | C4H8O
product | 4-o-Tolyl-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | COC(=O)C=1CN(CCC1C1=C(C=CC=C1)C)C(=O)OC(C)(C)C | C19H25NO4
